2145-02-15 07:03:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Vagaled when sheath pulled - dropped pressure, responded to pressors
   + fluids
   - Unable to tolerate HD for low BPs so switched to CVVH
   - On dopamine for pressure support with good effect
   - Extremely poor arterial access so no Aline was placed. Will consider
   groin line with Dr. [**Last Name (STitle) 3213**] in the AM
   - Hyperkalemia resolved
   - ABG overnight from L arm and has mixed venous and arterial blood from
   AV fistula
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2145-2-15**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 112 (78 - 119) bpm
   BP: 115/57(71) {45/34(37) - 137/67(82)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    PAP: (34 mmHg) / (28 mmHg)
   CO/CI (Fick): (3.5 L/min) / (2.1 L/min/m2)
   SvO2: 60%
   Mixed Venous O2% Sat: 60 - 60
   Total In:
                                                                    346 mL
                                                                  1,215 mL
   PO:
   TF:
   IVF:
                                                                    346 mL
                                                                  1,215 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                  1,027 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.41/44/68/31/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Gen: WD elderly female intubated and sedated.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   Neck: Supple with elevated JVP to earlobe.
   CV: RRR, normal S1, S2. Distant heart tones, No m/r/g appreciated. No
   thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, Clear anteriorly, bibasilar crackles
   Abd: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits. R femoral PA line in place
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 1+ DP/PT +dopplerable
   Left: Carotid 2+ Femoral 1+ DP/PT + dopplerable, L PT faint doppler
   Labs / Radiology
   280 K/uL
   10.2 g/dL
   165 mg/dL
   3.0 mg/dL
   31 mEq/L
   4.2 mEq/L
   16 mg/dL
   97 mEq/L
   139 mEq/L
   30.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2145-2-14**]  06:35 PM
                             [**2145-2-14**]  07:50 PM
                             [**2145-2-14**]  09:00 PM
                             [**2145-2-14**]  09:23 PM
                             [**2145-2-15**]  12:38 AM
                             [**2145-2-15**]  02:07 AM
                             [**2145-2-15**]  02:40 AM
                             [**2145-2-15**]  03:40 AM
                             [**2145-2-15**]  05:40 AM
   WBC
   17.7
   17.2
   Hct
   38
   32.9
   32.9
   30.1
   Plt
   262
   280
   Cr
   4.8
   3.8
   3.0
   TropT
   4.70
   4.00
   TCO2
   26
   25
   26
   28
   29
   Glucose
   185
   177
   165
   Other labs: PT / PTT / INR:13.7/28.7/1.2, CK / CKMB /
   Troponin-T:842/159/4.00, ALT / AST:50/188, Alk Phos / T Bili:105/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:3.1 g/dL,
   LDH:792 IU/L, Ca++:9.3 mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF now admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.
   .
   # PEA arrest
 Differential diagnosis includes hypomagnesium,
   hypothermia, hyperkalemia, hypovolemia, and hypoxia. Other etiologies
   tamponade, toxins, thrombosis, tension pneumo, sepsis, severe CHF.  In
   her, patient had hyperkalemia in the context of hemolysized specimen.
   Patient had normal magnesium, was not hypothermic and was not
   initially  hypoxic, intubated in the setting of PEA arrest rather than
   because of low oxygenation.  Patient without tamponade physiology. Most
   likely etiology thought to be secondary to cardiac ischemia.  Other
   possibilities is acute sepsis, there is possibility of aspiration vs.
   multifocal pneumonia on chest x-ray. Would consider PE also on the
   differential but less likely given positive enzymes. The patient
   presented with complaints of N/V, diarrhea and became bradycardic
   followed by PEA arrest. Pt regained rhythm with epi/atropine X2.
   Hyperkalemia was treated with kayexelate. No clear acidosis prior to
   arrest on labs, glucose 129. The patient was found to have CK elevated
   to 452 with MBI 9.7 and troponin 3.74. In cath lab the patient was
   found to have markedly elevated PCWP to 45mmg Hg and mean PA to 46 mm
   Hg. Hemodynamics improved with RCA stenting. Pt now s/p RCA PCI.
   - Continue ASA 325mg PO daily, Plavix 75mg PO daily
   - Continue supportive management with mechanical ventilation
   - Given short duration of arrest approx 8 min with return of spont
   movement in cath lab, Artic Sun protocol was deferred
   - f/u echo
   - trend cardiac enzymes, consider going back to cath lab today
   - Monitor lytes, CVVH for volume overload
   .
   # Multifocal Pulmonary infiltrate - CT demonstrated a diffuse
   consolidation of the lung bases with bronchial infiltration.
   - given unclear precipitant of PEA arrest, pt not clearly hypoxic on
   presentation but with initial elevated O2 requirement (FIO2 70%), CT
   with evidence of bilateral pulmonary infiltrates
   - Vanc/Zosyn for now, got ID approval
   - f/u sputum cultures
   - consider dedicated chest CT when patient stable
   .
   #. ESRD on CVVH - Given markedly elevated PCWP and hyperkalemia, the
   patient was urgently dialyzed post-cath however patient was unable to
   tolerated standard HD due to hypotension so changed to CVVH.
   -          cont CVVH for now
   -          consider changing back to HD when tolerated
   #. Chronic Diastolic CHF:
   -          Repeat TTE today to further evaluate systolic function and
   evidence of diastolic dysfunction
   -          Hold metoprolol and losartan for now given unstable BP.
   .
   #. Hypertension - holding outpatient regimen of losartan, metoprolol,
   nifedipine while hypotensive.
   .
   #. Hypothyroidism - continue synthroid
   - check TSH
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now
   .
   #. FEN
 NPO until after cath, will start tube feeds afterwards
   .
   #. Access: R PA catheter, attempt a-line today if tolerated
   .
   #. PPx: PPI, bowel regimen, heparin SC
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-14**] 09:00 PM
   Sheath - [**2145-2-14**] 09:13 PM
   PA Catheter - [**2145-2-14**] 09:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 60 minutes of critical care time.
   Visit on [**2144-2-15**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-16**]
   10:11 ------

2145-02-16 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2145-2-15**] 01:00 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-15**] 03:11 PM
   Vancomycin - [**2145-2-15**] 09:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 850 units/hour
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-16**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 98 (91 - 113) bpm
   BP: 83/44(55) {83/44(55) - 83/44(55)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    PAP: (36 mmHg) / (27 mmHg)
   CO/CI (Fick): (4.8 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  5,933 mL
                                                                    797 mL
   PO:
   TF:
   IVF:
                                                                  5,933 mL
                                                                    797 mL
   Blood products:
   Total out:
                                                                  6,806 mL
                                                                    752 mL
   Urine:
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                   -873 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/42/143/28/5
   Ve: 6.3 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   10.0 g/dL
   137 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   95 mEq/L
   136 mEq/L
   29.4 %
   15.2 K/uL
        [image002.jpg]
                             [**2145-2-15**]  05:40 AM
                             [**2145-2-15**]  11:39 AM
                             [**2145-2-15**]  01:57 PM
                             [**2145-2-15**]  03:30 PM
                             [**2145-2-15**]  05:20 PM
                             [**2145-2-15**]  05:25 PM
                             [**2145-2-15**]  10:17 PM
                             [**2145-2-15**]  10:58 PM
                             [**2145-2-15**]  11:37 PM
                             [**2145-2-16**]  02:36 AM
   WBC
   17.2
   15.2
   Hct
   30.1
   29.4
   Plt
   280
   273
   Cr
   3.0
   2.3
   1.8
   TropT
   4.00
   4.07
   TCO2
   34
   32
   32
   30
   30
   Glucose
   165
   135
   137
   Other labs: PT / PTT / INR:13.7/77.2/1.2, CK / CKMB /
   Troponin-T:652/104/4.07, ALT / AST:50/188, Alk Phos / T Bili:105/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL,
   LDH:792 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIAC ARREST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-14**] 09:00 PM
   Sheath - [**2145-2-14**] 09:13 PM
   PA Catheter - [**2145-2-14**] 09:17 PM
   Arterial Line - [**2145-2-15**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-02-16 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Echo shows worsening: mild to moderate regional left ventricular
   systolic dysfunction with severe hypokinesis of the distal 2/3rds of
   the anterior septum and anterior walls, distal inferior and apical
   walls. The remaining segments contract normally (LVEF = 40 %,
   previously 55%). There is moderate aortic valve stenosis (area 1.0cm2).
   Compared with the prior study (images reviewed) of [**2144-10-12**], regional
   left ventricular systolic dysfunction is more extensive with lower
   global ejection fraction.
   - A-line placed successfully by Dr. [**Last Name (STitle) **]
   - Updated family
   - Tube feeds held after MN for possible cath in am
   - Pt had had increased output from NGT, ?decreased bowel sounds. KUB
   checked, was negative.
   - Blood cultures x 2 drawn off tunneled HD line
   - CKs peaked at 852 in [**2-15**] am, now downtrending; Troponin peaked at
   4.70 [**2-14**] pm
   - Vanc trough in pm 7.3, re-dosed with Vanc 1g IV x 1
   - Still requiring Dopamine 12 to maintain MAPs in 60s
   - tube feeding recomendations: replete with fiber @ 15 cc/hour advance
   q 8 hours by 10 ml/hr to goal 55 ml/hr
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-15**] 03:11 PM
   Vancomycin - [**2145-2-15**] 09:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 850 units/hour
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-16**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 98 (91 - 113) bpm
   BP: 83/44(55) {83/44(55) - 83/44(55)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    PAP: (36 mmHg) / (27 mmHg)
   CO/CI (Fick): (4.8 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  5,933 mL
                                                                    849 mL
   PO:
   TF:
   IVF:
                                                                  5,933 mL
                                                                    849 mL
   Blood products:
   Total out:
                                                                  6,806 mL
                                                                    752 mL
   Urine:
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                   -873 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.41/41/124/28/1
   Ve: 6.3 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Gen: WD elderly female intubated and sedated.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   Neck: Supple with elevated JVP to earlobe.
   CV: RRR, normal S1, S2. Distant heart tones, No m/r/g appreciated. No
   thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, Clear anteriorly with occasional crackles
   Abd: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits. R femoral PA line in place
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   273 K/uL
   10.0 g/dL
   137 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   95 mEq/L
   136 mEq/L
   29.4 %
   15.2 K/uL
        [image002.jpg]
                             [**2145-2-15**]  11:39 AM
                             [**2145-2-15**]  01:57 PM
                             [**2145-2-15**]  03:30 PM
                             [**2145-2-15**]  05:20 PM
                             [**2145-2-15**]  05:25 PM
                             [**2145-2-15**]  10:17 PM
                             [**2145-2-15**]  10:58 PM
                             [**2145-2-15**]  11:37 PM
                             [**2145-2-16**]  02:36 AM
                             [**2145-2-16**]  06:37 AM
   WBC
   15.2
   Hct
   29.4
   Plt
   273
   Cr
   2.3
   1.8
   TropT
   4.07
   TCO2
   34
   32
   32
   30
   30
   27
   Glucose
   135
   137
   Other labs: PT / PTT / INR:13.7/77.2/1.2, CK / CKMB /
   Troponin-T:652/104/4.07, ALT / AST:50/188, Alk Phos / T Bili:105/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL,
   LDH:792 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF now admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.
   .
   # PEA arrest
 Pt was not initially  hypoxic, intubated in the setting
   of PEA arrest rather than because of low oxygenation.  Likely etiology
   thought to be secondary to cardiac ischemia.  Other possibilities is
   acute sepsis, there is possibility of aspiration vs. multifocal
   pneumonia on chest x-ray. The patient presented with complaints of N/V,
   diarrhea and became bradycardic followed by PEA arrest. The patient was
   found to have CK elevated to 452 with MBI 9.7 and troponin 3.74. In
   cath lab the patient was found to have markedly elevated PCWP to 45mmg
   Hg and mean PA to 46 mm Hg. Hemodynamics improved with RCA stenting.
   However, persistently requiring pressors. Pt now s/p RCA PCI on CVVH.
   - Given limited improvement thus far, worsened EF, and continued
   pressor requirement, pt to go to cath lab again this am for treatment
   of LAD
   Running negative with pulm pressures improving but increased dopamine
   requirement. Mix of cardiogenic and vasodilatory shock. Loweing pulm
   pressures with diuresis but increased dopamine. Goal today even.
   Continue broad spectrum antibiotics for now. Goal improve contractility
   by addressing LAD stenosis.
   - Consider reversal of non-functioning AV fistula during this stay to
   improve cardiac output
   - Continue ASA 325mg PO daily, Plavix 75mg PO daily
   - Continue supportive management with mechanical ventilation
   - Wean dopa as tolerated to maintain  MAPs>60
   - ECHO showed decreased EF to 40% from previous 70%
   - Can stop trending CE, CKs peaked at 852 on [**2-15**] am, Trop peaked at
   4.7 [**2-14**] pm
   - Monitor lytes, CVVH for volume overload
   - Blood cx x 2 pending from HD line, blood cx x 2 from R groin lines,
   Urine cx pending
   .
   # Hypoxic Respiratory Failure
 improving s/p CVVH, FIO2 weaned to 40%,
   PEEP 5, consider pressure support trial following cath today
   - goal even today, wean sedation
   .
   # Multifocal Pulmonary infiltrate - CT on admission demonstrated a
   diffuse consolidation of the lung bases with bronchial infiltration.
   Hypoxia improving on CMV, FiO2 weaned to 40%. Continues to be afebrile.
   - Continue to wean off vent as tolerated
   - Vanc/Zosyn for now
   - WBC now downtrending
   - f/u sputum cultures
   - consider dedicated chest CT when patient stable
   .
   #. ESRD on CVVH - Given markedly elevated PCWP and hyperkalemia, the
   patient was urgently dialyzed post-cath however patient was unable to
   tolerated standard HD due to hypotension so changed to CVVH.
   -          cont CVVH for now
   -          consider changing back to HD when tolerated
   -          Pt received re-dosing of Vanc 1g IV x 1 for trough of 7.3
   yesterday
   #. Chronic Diastolic CHF:
   -          Hold metoprolol and losartan for now given unstable BP.
   -          ECHO showed worsened EF on repeat (40% from 70% )
   -          Consider repeat after cath, and as pt is weaned off pressors
   .
   #. Hypertension - holding outpatient regimen of losartan, metoprolol,
   nifedipine while hypotensive.
   .
   #. Hypothyroidism - continue synthroid
   - check TSH
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now
   .
   #. FEN
 tube feeds held pending cath
   .
   #. Access: R PA catheter, A-line, tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin gtt
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-14**] 09:00 PM
   Sheath - [**2145-2-14**] 09:13 PM
   PA Catheter - [**2145-2-14**] 09:17 PM
   Arterial Line - [**2145-2-15**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-17**]
   15:37 ------

2145-02-17 07:33:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - vanc level overnight 14.5, so dose of vancomycin given
   - patient started on pressure support trial yesterday afternoon
   - restarting tube feeds tonight, will hold in AM for possible
   extubation
   - patient being weaned of fentayl/versed today
   - patient underwent cardiac catherization with placement of 2 stents
   to: 1. Successful PTCA and stenting of the mid LAD stenosis with a
   2.5x23mm and a 2.25x12mm Mini Vision stents that was postdilated to 2.5
   proximally. The diag was rescued and dilated with a 2.0x8mm Voyager
   balloon. Final angiography revealed no residual stenosis in the stent,
   no angiograpically apparent dissection and TIMI III flow (See PTCA
   comments).
   2. Successful direct stenting of the proximal LAD stenosis with a
   3.0x8mm Vision stent. Final angiography revealed no resdiualstenosis,
   no angioraphically apparent dissection and TIMI III flow (See PTCA
   comments).
   FINAL DIAGNOSIS:
   1. Successful PTCA and stenting of the proximal and mid LAD stenoses
   - [**2-15**] abdominal x-ray - IMPRESSION: No evidence of bowel obstruction.
   [**2-16**] chest x-ray - FINDINGS: AP single view of the chest has been
   obtained with patient in supine position, and analysis is conducted in
   direct comparison with a preceding similar examination dated [**2-15**], [**2144**]. There is further clearance of the previously described
   diffuse increased small patchy confluenting pattern predominantly in
   the right lung which in combination with patient's history most likely
   represented pulmonary edema. No new parenchymal
   infiltrates are identified. Previously described position of ETT, NG
   tube, double-lumen dialysis catheter, and pulmonary catheter approached
   from below remain all in unchanged appropriate position. No
   pneumothorax has developed.
   - PA line yesterday changed to triple lumen catheter
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-16**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-17**] 06:17 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2145-2-17**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.2
   HR: 92 (90 - 109) bpm
   BP: 94/39(65) {89/29(50) - 131/49(78)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    PAP: (30 mmHg) / (26 mmHg)
   Total In:
                                                                  4,511 mL
                                                                  2,430 mL
   PO:
   TF:
                                                                     30 mL
                                                                    135 mL
   IVF:
                                                                  4,441 mL
                                                                  2,276 mL
   Blood products:
   Total out:
                                                                  3,564 mL
                                                                  1,352 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    947 mL
                                                                  1,078 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 411 (364 - 490) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/46/119/28/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated.
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace.  No bruits.  No hematomas.
   Dopplerable pulses.
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   227 K/uL
   8.0 g/dL
   161 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   9 mg/dL
   97 mEq/L
   136 mEq/L
   23.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2145-2-16**]  02:36 AM
                             [**2145-2-16**]  06:28 AM
                             [**2145-2-16**]  06:37 AM
                             [**2145-2-16**]  12:45 PM
                             [**2145-2-16**]  12:59 PM
                             [**2145-2-16**]  05:00 PM
                             [**2145-2-16**]  07:11 PM
                             [**2145-2-16**]  11:47 PM
                             [**2145-2-17**]  12:03 AM
                             [**2145-2-17**]  06:30 AM
   WBC
   14.9
   11.1
   Hct
   29.3
   23.0
   Plt
   280
   227
   Cr
   1.7
   1.9
   1.5
   1.4
   TropT
   3.45
   3.84
   TCO2
   30
   27
   26
   23
   30
   32
   Glucose
   143
   113
   137
   161
   Other labs: PT / PTT / INR:13.9/26.2/1.2, CK / CKMB /
   Troponin-T:427/31/3.84, ALT / AST:50/188, Alk Phos / T Bili:105/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:792 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF now admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**].
   .
   # PEA arrest
 Likely secondary to acute ischemia given elevated
   troponins, CK-MBs on admission prior to code blue with CK elevated to
   452 with MBI 9.7 and troponin 3.74. Of note, patient was not initially
   hypoxic,  and patient was intubated in the setting of PEA arrest.
   Other possibilities for etiology which are less likely are acute sepsis
   - ?aspiration vs. multifocal pneumonia. In addition, metabolic
   derrangements including hyperkalemia may have contributed as patient
   noted to have elevated potassium on admission however was hemolyzed
   specimen. In cath lab the patient was found to have markedly elevated
   PCWP to 45mmg Hg and mean PA to 46 mm Hg. Hemodynamics improved with
   RCA PCI. However, she continued to persistently requiring pressors.
   Patient returned to cath lab for LAD stenting yesterday.
   .
   # Shock
 suspect mixture of cardiogenic and septic shock. Patient on
   broad spectrum antibiotics with vanco/zosyn although low clinical
   suspicion for pneumonia, likely aspiration in setting of arrest.
   Patient s/p 2 cardiac catherizations, with 2 stents to LAD and RCA PCI
   with goal to hopefully improve hemodynamics. Patient with elevated
   pulmonary capillary wedge pressure on cardiac catherization.
   -          cont management for acute ischemia: aspirin, statin, plavix,
   hold beta blocker given pressor requirement
   -          cont dopamine as required to maintain MAPs > 60, wean as
   tolerated
   -          cont broad spectrum antibiotics
   -          cont CVVH for now until pressure stabilized
   -          consider closing of non-functioning AV fistula.  Will d/w
   renal regarding future plans to use AV fistula.
   -          f/u cultures including daily sputum cultures while intubated
   # Hypoxic Respiratory Failure
 improving s/p CVVH, now on pressure
   support trial with pressure of [**4-27**] and weaning sedation. Last gas from
   this morning was excellent.  Barrier is currently mental status
   patient with h/o CVAs.
   - turn off sedation.  Increase PEEP today given small size of ET
   tube..  Possible extubation today.
   .
   # Multifocal Pulmonary infiltrate - CT on admission demonstrated a
   diffuse consolidation of the lung bases with bronchial infiltration.
   Hypoxia improving on CMV, FiO2 weaned to 40% now on pressure support.
   Continues to be afebrile. Sputum cultures growing only yeast.
   - trial of extubation today as above
   - cont broad spectrum antibiotics for now with Vanc/Zosyn for now .
   Consider d/c vancomycin.
   - consider dedicated chest CT when patient stable
   .
   # UTI: GNR in urine culture
   - f/u culture, await sensitivities
   - Continue on Zosyn.
   .
   #. ESRD on CVVH - Given markedly elevated PCWP and hyperkalemia, the
   patient was urgently dialyzed post-cath however patient was unable to
   tolerated standard HD due to hypotension so changed to CVVH.  1L
   positive [**2-17**] given dopamine requirements.
   - cont CVVH for now, consider changing back to HD when tolerated.  Plan
   to run even today.
   -  Pt received re-dosing of Vanc 1g IV x 1 for trough of 14.5
   - d/c nephrocaps per renal.
   .
   #. Chronic Diastolic CHF: Repeat echo on admission demonstrates mild
   symmetric left ventricular hypertrophy with normal cavity size. There
   is mild to moderate regional left ventricular systolic dysfunction with
   severe hypokinesis of the distal 2/3rds of the anterior septum and
   anterior walls, distal inferior and apical walls. The remaining
   segments contract normally (LVEF = 40 %). There is moderate aortic
   valve stenosis (area 1.0cm2). Mild to moderate ([**12-25**]+) aortic
   regurgitation is seen. Mild to moderate ([**12-25**]+) mitral regurgitation is
   seen. The estimated pulmonary artery systolic pressure is high normal.
   Compared with the prior study (images reviewed) of [**2144-10-12**], regional
   left ventricular systolic dysfunction is more extensive with lower
   global ejection fraction. Though the aortic valve gradient is lower,
   the severity of aortic stenosis likely similar.
   - Hold metoprolol and losartan for now given unstable BP.
   - Echo as above demonstrates more extensive with lower global ejection
   fraction than previous which may be in the setting of periischemic
   - Consider repeat echo after patient weaned off of pressors
   - Will likely need diuresis post extubation if BP tolerates.
   .
   #. Hypertension - holding outpatient regimen of losartan, metoprolol,
   nifedipine while hypotensive.
   .
   # Anemia:  Hct drop.  No obvious hematomas s/p cath.
   - Transfuse 1U PRBC today.  Follow post transfusion hct.
   - Continue epo
   - Guaiac all stools (none recently)
   - If no bump in hct consider abd/pelvis CT scan to rule out bleed.
   .
   #. Hypothyroidism - continue synthroid
   - check TSH
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation.
   .
   #. Access: R triple lumen, A-line (not [**Location (un) 103**] well currently
   consider exchanging), tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   .
   [**First Name8 (NamePattern2) 436**] [**Name6 (MD) 4290**] [**Name8 (MD) 437**], M.D. M.S.
   #[**Numeric Identifier 4291**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-14**] 09:00 PM
   Arterial Line - [**2145-2-15**] 01:00 PM
   Multi Lumen - [**2145-2-16**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-17**]
   08:43 ------

2145-02-18 06:22:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Weaned and DCed all sedatives and pressors
   - Pt autoregulating BP with pressures around 120/50
   - Pt remains comatose with poor response to pain (opens eyes, does not
   localize)
   - Holding off on Epo for now as is thrombogenic in the setting of acute
   MI with new stents in place. Will transfuse as needed.
   - Renal asks that we NOT close the L A-V fistula for now as
   hemodynamically stable
   - Restarted tube feeds as no going to be extubated this PM
   - Received 1U pRBC with appropriate increase in H/H from /23 to /25
   - Anemia studies sent, showed elevated ferritin consistent with anemia
   of inflammation and WNL serum iron level.
   - DCed nephrocaps and repleted Pi
   - DCed vancomycin as no sign of line infection. Continued pip/tazo for
   positive UA
   - Pulled Aline on the R for cold hand. Pulses doplarable distal and
   proximal afterwards
   - Clotted off CVVH filter around 4am on [**2-18**]. Held off on restarting
   CVVH as BPs are excellent and may be able to tolerate HD. Will discuss
   with renal in the AM.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-16**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-18**] 05:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-2-18**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-18**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 92 (82 - 115) bpm
   BP: 117/38(58) {88/34(49) - 156/69(85)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  8,670 mL
                                                                  1,289 mL
   PO:
             TF:
                                                                    358 mL
                                                                     64 mL
   IVF:
                                                                  7,886 mL
                                                                  1,225 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,250 mL
                                                                  1,494 mL
   Urine:
                                                                     50 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,420 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (302 - 411) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.43/46/119/32/5
   Ve: 10 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated.
   Eyes / Conjunctiva: No(t) PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace.  No bruits.  No hematomas.
   Dopplerable pulses.
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   227 K/uL
   8.0 g/dL
   124 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.9 mEq/L
   6 mg/dL
   98 mEq/L
   140 mEq/L
   25.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2145-2-16**]  12:45 PM
                             [**2145-2-16**]  12:59 PM
                             [**2145-2-16**]  05:00 PM
                             [**2145-2-16**]  07:11 PM
                             [**2145-2-16**]  11:47 PM
                             [**2145-2-17**]  12:03 AM
                             [**2145-2-17**]  06:30 AM
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
   WBC
   11.1
   9.8
   Hct
   23.0
   23.4
   25.2
   25.1
   Plt
   227
   Cr
   1.9
   1.5
   1.4
   1.2
   1.2
   TropT
   3.84
   TCO2
   26
   23
   30
   32
   Glucose
   113
   137
   161
   151
   137
   170
   124
   Other labs: PT / PTT / INR:13.9/26.2/1.2, CK / CKMB /
   Troponin-T:385/31/3.84, ALT / AST:50/188, Alk Phos / T Bili:105/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:792 IU/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued. Pt remains comatose.
   .
   # PEA arrest
 Likely secondary to acute ischemia given elevated
   troponins, CK-MBs on admission prior to code blue with CK elevated to
   452 with MBI 9.7 and troponin 3.74. Of note, patient was not initially
   hypoxic,  and patient was intubated in the setting of PEA arrest.
   Other possibilities for etiology which are less likely are acute sepsis
   - ?aspiration vs. multifocal pneumonia. In addition, metabolic
   derrangements including hyperkalemia may have contributed as patient
   noted to have elevated potassium on admission however was hemolyzed
   specimen. In cath lab the patient was found to have markedly elevated
   PCWP to 45mmg Hg and mean PA to 46 mm Hg. Hemodynamics improved with
   RCA PCI. However, she continued to persistently requiring pressors.
   Patient returned to cath lab for LAD stenting. Since then he has had
   progressive improvement in hemodynamics and respiratory status. She
   remains comatose
   - Continue management for acute ischemia: aspirin, statin, plavix, hold
   beta blocker given pressor requirement
   - Monitor on tele
   - Manage ESRD, respiratory failure (improving), shock (resolved), and
   coma as below
   .
   #. ESRD on HD/CVVH - Given markedly elevated PCWP and hyperkalemia, the
   patient was urgently dialyzed post-cath however patient was unable to
   tolerated standard HD due to hypotension so changed to CVVH.  Pressures
   have improved and now off pressors entirely.
   - Clotted CVVH filter overnight. As pressures stable, held off on
   restarting CVVH and will discuss HD with renal
   - d/c nephrocaps and repleted  per renal
   - hold off on EPO given recent coronary artery intervention
   .
   # Hypoxic Respiratory Failure
 improving s/p CVVH, now on pressure
   support trial with pressure of [**4-27**] and weaning sedation. Last gas from
   this morning was excellent.  Barrier is currently mental status
   patient with h/o CVAs.
   -          Off sedation, on pressure support however making low tidal
   volumes and tachypneic to high 30s with still thick secretions
   -          This morning does not respond to commands which will be
   barrier to extubation
   .
   # Coma: Pt with ongoing coma in spite of being off sedation and with
   good BP and uremic control
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest
   - Consider head CT for ? anoxic brain injury today
   - consider neuro consult if clinical status does not improve
   .
   # Shock
 now resolved. suspect mixture of cardiogenic and septic
   shock. Patient on broad spectrum antibiotics with vanco/zosyn although
   low clinical suspicion for pneumonia, likely aspiration in setting of
   arrest. Patient s/p 2 cardiac catherizations, with 2 stents to LAD and
   RCA PCI with goal to hopefully improve hemodynamics. Patient with
   elevated pulmonary capillary wedge pressure on cardiac catherization.
   Patient now off all pressors and off CVVH.
   - cont pip/tazo
   - Off CVVH due to filter clotting. As shock resolved, can now have HD
   if renal agrees
   .
   # Multifocal Pulmonary infiltrate - CT on admission demonstrated a
   diffuse consolidation of the lung bases with bronchial infiltration.
   Hypoxia improving on CMV, FiO2 weaned to 40% now on pressure support.
   Continues to be afebrile. Sputum cultures growing only yeast.
   - consider trial of extubation, however may defer
   - cont broad spectrum antibiotics for now with Vanc/Zosyn for now .
   - consider dedicated chest CT when patient stable
   .
   # UTI: GNR in urine culture
   - f/u culture, await sensitivities
   - Continue on Zosyn.
   .
   #. Chronic Diastolic CHF: Repeat echo on admission demonstrates mild
   symmetric left ventricular hypertrophy with normal cavity size. There
   is mild to moderate regional left ventricular systolic dysfunction with
   severe hypokinesis of the distal 2/3rds of the anterior septum and
   anterior walls, distal inferior and apical walls. The remaining
   segments contract normally (LVEF = 40 %). There is moderate aortic
   valve stenosis (area 1.0cm2). Mild to moderate ([**12-25**]+) aortic
   regurgitation is seen. Mild to moderate ([**12-25**]+) mitral regurgitation is
   seen. The estimated pulmonary artery systolic pressure is high normal.
   Compared with the prior study (images reviewed) of [**2144-10-12**], regional
   left ventricular systolic dysfunction is more extensive with lower
   global ejection fraction. Though the aortic valve gradient is lower,
   the severity of aortic stenosis likely similar.
   - Hold metoprolol and losartan for now given unstable BP, consider
   restarting as blood pressure stabilitzes
   - Echo as above demonstrates more extensive with lower global ejection
   fraction than previous which may be in the setting of periischemic
   - Consider repeat echo today as off all pressors
   - Will likely need diuresis post extubation if BP tolerates.
   .
   #. Hypertension
 patient currently normotensive, previously was
   hypotensive with shock so was holding outpatient regimen of losartan,
   metoprolol, nifedipine
   - consider restarting medications one at a time when BP stable
   .
   # Anemia:  Hct drop.  No obvious hematomas s/p cath.
   - Transfuse 1U PRBC today.  Follow post transfusion hct.
   - Continue epo
   - Guaiac all stools (none recently)
   - If no bump in hct consider abd/pelvis CT scan to rule out bleed.
   .
   #. Hypothyroidism - continue synthroid
   - check TSH
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation.
   .
   #. Access: R triple lumen, A-line (not [**Location (un) 103**] well currently
   consider exchanging), tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   Multi Lumen - [**2145-2-16**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-02-19 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal said ok to hold off on HD/CVVH for now, as has been well
   dialyzed, will reassess today
   - Spoke at length with family several times throughout the day
   - Pulled femoral line, cultured tip
   - On PSV 14/5 overnight, RSBI this am 125
   - PIV placed in R arm
   - UCx positive for Enterobacter cloacae, sensitivities pending
   - Spiked fever to 101.2, pan-cultured. Started Tylenol for persistent
   low-grade fevers
   - Transfused 2 units pRBC for crit 24.1 and for volume, bumped
   appropriately 24.1->29.9->31.7
   - FT4 was wnl at 1.2
   - Zosyn dose changed to q12 for HD dosing
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-16**] 09:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-19**] 05:39 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-2-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-2-19**] 01:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2145-2-19**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 95 (81 - 104) bpm
   BP: 155/52(78) {88/32(48) - 169/60(86)} mmHg
   RR: 19 (7 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,474 mL
                                                                    265 mL
   PO:
             TF:
                                                                    340 mL
                                                                    165 mL
   IVF:
                                                                  1,384 mL
                                                                    100 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,509 mL
                                                                      0 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (251 - 494) mL
   PS : 14 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   General
 opens eyes to commands, intubated, sedated
   HEENT
 OG tube, ET tube in place
   Cards
 RRR, nl s1/s2
   Pulm- rhonchorous throughout
   Abdomen - + BS, soft, NT, ND
   Extremities
 in boots, trace LE edema, diminished but symmetric pulses
   that are dopplerable
   Labs / Radiology
   192 K/uL
   11.2 g/dL
   117 mg/dL
   2.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   98 mEq/L
   138 mEq/L
   31.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2145-2-16**]  07:11 PM
                             [**2145-2-16**]  11:47 PM
                             [**2145-2-17**]  12:03 AM
                             [**2145-2-17**]  06:30 AM
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
                             [**2145-2-18**]  05:45 AM
                             [**2145-2-18**]  05:07 PM
                             [**2145-2-19**]  05:20 AM
   WBC
   11.1
   9.8
   9.7
   10.0
   Hct
   23.0
   23.4
   25.2
   25.1
   24.1
   29.9
   31.7
   Plt
   227
   211
   192
   Cr
   1.5
   1.4
   1.2
   1.2
   1.2
   2.0
   2.7
   TropT
   3.84
   TCO2
   30
   32
   Glucose
   137
   161
   151
   137
   170
   124
   98
   112
   117
   Other labs: PT / PTT / INR:12.8/23.1/1.1, CK / CKMB /
   Troponin-T:185/12/3.84, ALT / AST:27/45, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:792 IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued.
   .
   #Fever: Fever curve trending down s/p femoral line DC.  Only positive
   cultures so far from urine culture growing enterobacter cloace. Patient
   on Zosyn for urine infection, previously on vanco now off.
   - Urine cx growing enterobacter
 pan-sensitive
 will transition to
   [**Month/Year (2) **]
   - f/u blood cultures
   .
   # PEA arrest
 Likely CAD/Ischemia s/p revascularization.
   - Continue: aspirin, statin, plavix
   - Monitor on tele
   - Manage ESRD, respiratory failure (improving), shock (resolved), and
   coma as below
   .
   #. ESRD on HD/CVVH -
   - BP improved, plan for transition to HD
   - holding off on EPO given recent coronary artery intervention
   .
   # Hypoxic Respiratory Failure
 improving s/p CVVH, now on pressure
   support trial with pressure of [**4-27**] and weaning sedation..  Barrier is
   currently mental status
 patient with h/o CVAs.
   - Off sedation, on pressure support however making low tidal volumes
   and tachypneic to high 30s with still thick secretions
   - mental status improved, plan to attempt extubation post-HD
   ..
   # Coma: MS improving
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest
   .
   # Shock
 now resolved. suspect mixture of cardiogenic and septic
   shock.
   .
   # Multifocal Pulmonary infiltrate - CT on admission demonstrated a
   diffuse consolidation of the lung bases with bronchial infiltration.
   Hypoxia improving on CMV, FiO2 weaned to 40% now on pressure support..
   Sputum cultures growing only yeast.
   - consider trial of extubation today
   - CXR improving, no evidence of PNA
   .
   # UTI: enterbacter
   - taper abx to [**Month/Day (1) **] to complete 10 day course
   .
   #. Chronic Diastolic CHF:
   - Hold metoprolol and losartan for now given unstable BP, consider
   restarting as blood pressure stabilitzes
   .
   #.  h/o Hypertension
 inactive issue
   # Anemia:  No obvious hematomas s/p cath.
   -- HCT stable overnight
   .
   #. Hypothyroidism - continue synthroid
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation.
   .
   #. Access: tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-18**] 01:28 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU
   ------ Protected Section ------
   Pt with allergy to [**Last Name (LF) **], [**First Name3 (LF) 116**] continue zosyn to complete 7 day course
   for UTI.
   ------ Protected Section Addendum Entered By:[**Name (NI) 288**] [**Last Name (NamePattern1) 1376**], MD
   on:[**2145-2-19**] 11:10 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 60 minutes of critical care time.
   Visit date [**2145-2-19**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-19**]
   18:42 ------

2145-02-20 06:29:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: PEA arrest
   24 Hour Events:
   [**2145-2-19**]
   - patient got dialysis which she tolerated well without a drop in blood
   pressure
   - as dialysis was not done until late decided to give pt chance to rest
   prior to intubation (family was concerned she was tired) prior to
   extubation
   - deferred restarting tube feeds as plan extubation Sat AM
   - renal recs - ? UF if unable to extubate secondary to volume
   - family to come in in the AM to try to be there for extubation,
   updated on events of the day
- urine culture: + enterobacter cloacae => patient can not get cipro as has alle
rgy so plan to just continue zosyn to complete total 10 day course
   - RISB 68 this AM. Pt with difficult airway [**1-25**] goiter so will extubate
   this AM with anaesthesia on call
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-19**] 08:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-2-19**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2145-2-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-20**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 92 (80 - 109) bpm
   BP: 142/48(72) {106/35(55) - 166/67(84)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    555 mL
                                                                     65 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                    390 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  3,459 mL
                                                                      8 mL
   Urine:
                                                                     59 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,904 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (303 - 403) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 7.9 L/min
   Physical Examination
   General
 opens eyes to commands, intubated, sedated
   HEENT
 OG tube, ET tube in place
   Cards
 RRR, nl s1/s2
   Pulm- rhonchorous throughout
   Abdomen - + BS, soft, NT, ND
   Extremities
 in boots, trace LE edema, diminished but symmetric pulses
   that are dopplerable
   Labs / Radiology
   243 K/uL
   11.3 g/dL
   99 mg/dL
   2.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   13 mg/dL
   101 mEq/L
   142 mEq/L
   31.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2145-2-16**]  11:47 PM
                             [**2145-2-17**]  12:03 AM
                             [**2145-2-17**]  06:30 AM
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
                             [**2145-2-18**]  05:45 AM
                             [**2145-2-18**]  05:07 PM
                             [**2145-2-19**]  05:20 AM
                             [**2145-2-20**]  05:06 AM
   WBC
   11.1
   9.8
   9.7
   10.0
   10.5
   Hct
   23.0
   23.4
   25.2
   25.1
   24.1
   29.9
   31.7
   31.7
   Plt
   227
   211
   192
   243
   Cr
   1.4
   1.2
   1.2
   1.2
   2.0
   2.7
   2.2
   TropT
   3.84
   TCO2
   30
   32
   Glucose
   161
   151
   137
   170
   124
   98
   112
   117
   99
   Other labs: PT / PTT / INR:14.1/31.1/1.2, CK / CKMB /
   Troponin-T:185/12/3.84, ALT / AST:27/45, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:792 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued.
   .
   # Hypoxic Respiratory Failure
 improving s/p CVVH, now on pressure
   support trial with pressure 8/0 with adequate RSBI
   -  plan for trial of extubation this morning
   - Given history of difficult airway [**1-25**] goiter, will have anaesthesia
   on call
   .
   # Fever: Fever curve trending down s/p femoral line DC.  Only positive
   cultures so far from urine culture growing enterobacter cloace. Patient
   on Zosyn for urine infection, previously on vanco now off.
   - Urine cx growing enterobacter
 complete 7 day course of zosyn
   tomorrow
   - f/u blood cultures
   .
   # PEA arrest
 Likely CAD/Ischemia s/p revascularization.
   - Continue: aspirin, statin, plavix
   - Monitor on tele
   - Manage ESRD, respiratory failure (improving), shock (resolved), and
   altered mental status as below
   .
   #. ESRD on HD/CVVH -
   - BP improved, plan now on HD
   - holding off on EPO given recent coronary artery intervention
   .
   # Altered Mental Status: MS improving
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest
   - As improving, likely multifactorial related to meds and hypotension
   as well as ICU delirium
   .
   # UTI: enterbacter
   - given allergies and would prefer to avoid 3^rd gen cephalosporins
   will complete 7 day course of zosyn
   .
   # Cardiogenic Shock
 now resolved.
   .
   #. Chronic Diastolic CHF:
   - Hold metoprolol and losartan for now given unstable BP, plan to
   restart low dose metoprolol today
   .
   #.  h/o Hypertension
 inactive issue
   # Anemia:  No obvious hematomas s/p cath.
   -- HCT stable
   .
   #. Hypothyroidism - continue synthroid
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation, speech and swallow eval
   .
   #. Access: tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-18**] 01:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add, agree with above
   Physical Examination
   Nothing to add, agree with above
   Medical Decision Making
   Nothing to add, agree with above
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-20**]
   08:49 ------

2145-02-21 06:21:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Extubated successfully and doing well
   - S&S eval pending
   - Plan to restart BP meds once tolerating POs
   - Underwent HD today
   - Doing very well
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-19**] 08:30 PM
   Piperacillin - [**2145-2-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-21**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 78 (78 - 102) bpm
   BP: 145/47(71) {106/35(61) - 155/53(76)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 67.1 kg
   Height: 60 Inch
             Total In:
                                                                    341 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                    341 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                     33 mL
                                                                     13 mL
   Urine:
                                                                     33 mL
                                                                     13 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    308 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 310 (310 - 310) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 0%
   PIP: 8 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 9.3 L/min
   Physical Examination
   General
 Alert and awake
   HEENT
 Dry MM.
   Cards
 RRR, nl s1/s2
   Pulm- rhonchorous throughout
   Abdomen - + BS, soft, NT, ND
   Extremities
 in boots, trace LE edema, diminished but symmetric pulses
   that are dopplerable
   Neuro
 moving all extremities.
   Labs / Radiology
   295 K/uL
   13.1 g/dL
   95 mg/dL
   4.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   26 mg/dL
   102 mEq/L
   145 mEq/L
   36.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-2-17**]  12:03 AM
                             [**2145-2-17**]  06:30 AM
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
                             [**2145-2-18**]  05:45 AM
                             [**2145-2-18**]  05:07 PM
                             [**2145-2-19**]  05:20 AM
                             [**2145-2-20**]  05:06 AM
                             [**2145-2-21**]  03:39 AM
   WBC
   9.8
   9.7
   10.0
   10.5
   9.1
   Hct
   23.4
   25.2
   25.1
   24.1
   29.9
   31.7
   31.7
   36.3
   Plt
   [**Telephone/Fax (3) 4430**]95
   Cr
   1.2
   1.2
   1.2
   2.0
   2.7
   2.2
   4.1
   TCO2
   30
   32
   Glucose
   151
   137
   170
   124
   98
   112
   117
   99
   95
   Other labs: PT / PTT / INR:15.0/34.5/1.3, CK / CKMB /
   Troponin-T:185/12/3.84, ALT / AST:27/45, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:792 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued. Now successfully extubated and doing
   well.
   .
   # PEA arrest
 Likely CAD/Ischemia s/p revascularization.
   - Continue: aspirin, statin, plavix
   - Monitor on tele
   - Manage ESRD, respiratory failure (resolved), shock (resolved), and
   altered mental status (improving) as below
   .
   #. ESRD on HD/CVVH -
   - BP improved, plan now on HD
   - holding off on EPO given recent coronary artery intervention
   .
   # Altered Mental Status: MS improving
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest
   - As improving, likely multifactorial related to meds and hypotension
   as well as ICU delirium
   .
   # Fever: Fever curve trending down s/p femoral line DC.  Only positive
   cultures so far from urine culture growing enterobacter cloace. Patient
   on Zosyn for urine infection, previously on vanco now off. Encourage
   out of bed to chair for likely component of atelectasis
   - Urine cx growing enterobacter
 complete 7 day course of zosyn today
   - f/u blood cultures -NGTD
   .
   # UTI: enterbacter
   - given allergies and would prefer to avoid 3^rd gen cephalosporins
   will complete 7 day course of zosyn
   .
   # Hypoxic Respiratory Failure
 Now resolved. Underwent CVVH and then
   HD to improve pulmonary edema. Ultimately weaned off vent and
   extubated.
   - S and S pending
   .
   # Cardiogenic Shock
 now resolved.
   .
   #. Chronic Diastolic CHF:
   - Restarted lopressor, consider addition of captopril
   .
   #.  h/o Hypertension
 inactive issue
   # Anemia:  No obvious hematomas s/p cath.
   -- HCT stable
   .
   #. Hypothyroidism - continue synthroid
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation, speech and swallow eval
   .
   #. Access: tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-18**] 01:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2145-02-22 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continuing to do well post-extubation
   - Repeat U/a looks dirty, but with 5 epi's; already completed Zosyn for
   +UTI for Enterobacter cloacae (7-day course). Repeat u/a pending
   - Held off on NGT, was able to tolerate PO Plavix
   - SS eval still pending
   - PT consult ordered
   - Will have regular HD today
   S: No CP, SOB, f/c, dysuria.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-2-19**] 08:30 PM
   Piperacillin - [**2145-2-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-22**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 91 (79 - 96) bpm
   BP: 162/63(88) {110/43(60) - 162/66(88)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 67.1 kg
   Height: 60 Inch
                  Total In:
                                                                    110 mL
                  PO:
                  TF:
   IVF:
                                                                    110 mL
   Blood products:
   Total out:
                                                                     23 mL
                                                                      0 mL
   Urine:
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     87 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General
 Alert and awake
   HEENT
 No JVD.
   Cards
 RRR, nl s1/s2, 2/6 SEM at RUSB, +S4
   Pulm- Diminished at R base, crackles at L base
   Abdomen - + BS, soft, mild hypogastric TTP without reb/guard, ND
   Extremities
 WWP, no LE edema.
   Labs / Radiology
   366 K/uL
   13.0 g/dL
   97 mg/dL
   5.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   48 mg/dL
   102 mEq/L
   147 mEq/L
   38.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2145-2-17**]  06:30 AM
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
                             [**2145-2-18**]  05:45 AM
                             [**2145-2-18**]  05:07 PM
                             [**2145-2-19**]  05:20 AM
                             [**2145-2-20**]  05:06 AM
                             [**2145-2-21**]  03:39 AM
                             [**2145-2-22**]  05:17 AM
   WBC
   9.8
   9.7
   10.0
   10.5
   9.1
   10.0
   Hct
   23.4
   25.2
   25.1
   24.1
   29.9
   31.7
   31.7
   36.3
   38.7
   Plt
   [**Telephone/Fax (3) 4430**]95
   366
   Cr
   1.2
   1.2
   1.2
   2.0
   2.7
   2.2
   4.1
   TCO2
   32
   Glucose
   151
   137
   170
   124
   98
   112
   117
   99
   95
   Other labs: PT / PTT / INR:13.4/23.3/1.2, Ca++:10.2 mg/dL, Mg++:2.7
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued. Now successfully extubated and doing
   well.
   .
   # PEA arrest
 Likely CAD/Ischemia s/p revascularization.
   - Continue: aspirin, statin, plavix
   - Monitor on tele
   - Manage ESRD, respiratory failure (resolved), shock (resolved), and
   altered mental status (improving) as below
   .
   #. ESRD on HD/CVVH -
   - BP improved, plan now on HD.  HD today.
   - holding off on EPO given recent coronary artery intervention
   .
   # Altered Mental Status: MS improving daily.   According to son,
   patient is at 70%.
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest
   - As improving, likely multifactorial related to meds and hypotension
   as well as ICU delirium
   .
   # Fever: Fever curve trending down s/p femoral line DC.  Only positive
   cultures so far from urine culture growing enterobacter cloace. Patient
   on Zosyn for urine infection, previously on vanco now off.  Encourage
   out of bed to chair for likely component of atelectasis
   - Urine cx growing enterobacter
 completed 7 day course of zosyn
   today.  d/c today,.
   - f/u blood cultures -NGTD
   .
   # UTI: enterobacter
   - given allergies and would prefer to avoid 3^rd gen cephalosporins
   will complete 7 day course of zosyn.  Done today.
   .
   # Hypoxic Respiratory Failure
 Now resolved. Underwent CVVH and then
   HD to improve pulmonary edema. Ultimately weaned off vent and
   extubated.
   - S and S pending
   .
   # Cardiogenic Shock
 now resolved.
   .
   #. Chronic Diastolic CHF:
   - Restarted lopressor at 25mg PO BID
   - Consider addition of captopril today.  Will just confirm with renal
   today.
   .
   #.  h/o Hypertension
 BPs trending up.
   - Beta blocker and ACE inhibitor today.
   # Anemia:  No obvious hematomas s/p cath.
   -- HCT stable
   .
   #. Hypothyroidism - continue synthroid
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 tube feeds given overnight, held this morning for possible
   extubation, speech and swallow eval
   .
   #. Access: tunneled HD catheter in R subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  Pending clinical improvement
 possible call out after HD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-2-14**] 09:00 PM
   20 Gauge - [**2145-2-18**] 01:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2145-2-22**]
   18:00 ------

2145-02-23 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT after HD
   -got hypotensive to SBP in 80s after HD and scheduled metoprolol,
   responded to 250ccbolus NS
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   mouth sores;
   Sulfonamides
   Unknown;
   Erythromycin Base
   Unknown;
   Atorvastatin
   Hepatic toxicit
   Phenergan (Oral) (Promethazine Hcl)
   confusion;
   Colchicine
   nausea
   vomitin
   Nickel
   Unknown;
   Iodine; Iodine Containing
   Unknown; RASH T
   Quinine
   hypoglycemia;
   Ciprofloxacin Hcl
   Rash;
   Neurontin (Oral) (Gabapentin)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2145-2-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-2-22**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2145-2-22**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-23**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 80 (76 - 100) bpm
   BP: 126/30(51) {79/29(42) - 159/81(88)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.7 kg (admission): 67.1 kg
   Height: 60 Inch
                  Total In:
                                                                    425 mL
                  PO:
                                                                    175 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General: awake, somnolent, responds to questions by shaking head yes or
   no, minimally inreractive
   HEENT: nc/at. MM slightly dry
   CV: RRR. Harsh 3/6 systolic murmur LUSB. Left HD cath in place without
   erythema or drainage
   Resp: CTA anteriorly
   Ext:Pneumoboots in place. Trace pulses BL
   Labs / Radiology
   440 K/uL
   13.7 g/dL
   121 mg/dL
   3.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   21 mg/dL
   101 mEq/L
   143 mEq/L
   40.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2145-2-17**]  12:03 PM
                             [**2145-2-17**]  05:54 PM
                             [**2145-2-18**]  12:00 AM
                             [**2145-2-18**]  05:45 AM
                             [**2145-2-18**]  05:07 PM
                             [**2145-2-19**]  05:20 AM
                             [**2145-2-20**]  05:06 AM
                             [**2145-2-21**]  03:39 AM
                             [**2145-2-22**]  05:17 AM
                             [**2145-2-23**]  04:49 AM
   WBC
   9.7
   10.0
   10.5
   9.1
   10.0
   9.8
   Hct
   25.2
   25.1
   24.1
   29.9
   31.7
   31.7
   36.3
   38.7
   40.4
   Plt
   [**Telephone/Fax (3) 4430**]95
   366
   440
   Cr
   1.2
   1.2
   2.0
   2.7
   2.2
   4.1
   5.8
   3.4
   Glucose
   137
   170
   124
   98
   112
   117
   99
   95
   97
   121
   Other labs: PT / PTT / INR:14.2/24.4/1.2, CK / CKMB /
   Troponin-T:185/12/3.84, ALT / AST:27/45, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:43/19, Differential-Neuts:91.1 %, Lymph:6.0 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:792 IU/L, Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   No new micro or cx data
   No CXR
   80y.o F with a PMH of ESRD on HD, CVA, diastolic CHF admitted after
   witnessed PEA arrest in the ED. Cath showed stenotic RCA. PCWP was
   45mmHg. RCA was stented and hemodynamics improved with PCI. Transferred
   to the CCU on pressors initially on HD, then on CVVH due to
   hypotension.  Patient then underwent repeat cardiac catherization with
   2 stents to the LAD on [**2-16**]. Hemodynamics have progressively improved
   and pressors were discontinued. Now successfully extubated and doing
   well.
   .
   # PEA arrest
 Likely CAD/Ischemia s/p revascularization.
   - Continue: aspirin, statin, plavix
   - Monitor on tele
   - Manage ESRD, respiratory failure (resolved), shock (resolved), and
   altered mental status (improving) as below
   .
   #. ESRD on HD/CVVH -
   - BP improved, plan now on HD MWF.
   - holding off on EPO given recent coronary artery intervention
   .
   # Altered Mental Status: MS improving daily.   According to son,
   patient is at 70%. Although daughter believes 50%
   - Concern for anoxic brain injury from hypotension peri and post PEA
   arrest in setting of known mild vascular dementia
   - As improving, likely multifactorial related to meds and hypotension
   as well as ICU delirium with a tendency to sundown
   .
   # Fever: Fever curve trending down s/p femoral line DC.  Only positive
   cultures so far from urine culture growing enterobacter cloace. Patient
   on Zosyn for urine infection, previously on vanco now off both.
   Encourage out of bed to chair for likely component of atelectasis
   - Urine cx growing enterobacter
 completed 7 day course of zosyn
   today.  d/c today,.
   - f/u blood cultures
NGTD; cis
   .
   # UTI: enterobacter
   - completed 7 day course of Zosyn.
   .
   # Hypoxic Respiratory Failure
 Now resolved. Underwent CVVH and then
   HD to improve pulmonary edema. Ultimately weaned off vent and
   extubated.
   - S and S completed, nectar and pureed
   .
   # Cardiogenic Shock
 now resolved.
   .
   #. Chronic Diastolic CHF:
   - Restarted lopressor at 25mg PO BID and [**Last Name (un) **]
   #.  h/o Hypertension
 BPs trending up. Only low BPs after HD
   - Continue Metoprolol 25 [**Hospital1 **] and losartan 50 daily with holding
   parameters, may need downtitration of doses.
   # Anemia:  No obvious hematomas s/p cath.
   -- HCT stable
   .
   #. Hypothyroidism - continue synthroid 88
   .
   #. Orthostatic hypotension - on midodrine as outpatient after HD, will
   hold for now given blood pressure issues as above
   .
   #. FEN
 diet changed per [**Doctor Last Name 4484**], nectar thickened, pureed with ensure
   pudding TID
   .
   #. Access: tunneled HD catheter in L subclav
   .
   #. PPx: PPI, bowel regimen, heparin subQ
   .
   #. Code:  FULL
   .
   #. Dispo:  called out to the floor